US04096267
Step B: 2-Methyl-5-benzyloxy-6,7-dichloro-1-indanone
A stirred mixture of 2-methyl-5-hydroxy-6,7-dichloro-1-indanone (27.6 g., 0.12 mole), potassium carbonate (24.9 g., 0.18 mole) and benzyl bromide (21.4 ml., 0.18 mole) in dimethylformamide (100 ml.) is warmed at 55°-60° C. for 2 hrs., then poured into water (1 l.) to precipitate 35.5 g. of 2-methyl-5-benzyloxy-6,7-dichloro-1-indanone which melts at 153°-155° C. after crystallization from benzene:hexane, 3:2.

reactant | 2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.12 mole, 27.6 g | CC1C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O | C10H8Cl2O2
reactant | potassium carbonate | 0.18 mole, 24.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.18 mole, 21.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 1 l | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-5-benzyloxy-6,7-dichloro-1-indanone | CC1C(C2=C(C(=C(C=C2C1)OCC1=CC=CC=C1)Cl)Cl)=O | C17H14Cl2O2
